US09085575B2
0.48 g (8.6 mmol) of iron is added to a solution of 1 g (1.7 mmol) of tert-butyl 4-(4-(3-cyano-5-(ethoxycarbonyl)-6-(4-methoxyphenyl)-2-(methylthio)pyridin-4-yl)-3-nitrophenyl)piperazine-1-carboxylate dissolved in 8.82 ml of acetic acid. The reaction medium is carried at 90° C. for 4 hours. The precipitate obtained is filtered on Dicalite and then rinsed with a 98:2 dichloroethane/methanol mixture. The filtrate is concentrated to yield 0.63 g (66%) of tert-butyl 4-(1-cyano-4-(4-methoxyphenyl)-2-(methylthio)-5-oxo-5,6-dihydrobenzo[c][2,7]naphthyridin-8-yl)piperazine-1-carboxylate in the form of a yellow solid.

reactant | tert-butyl 4-(4-(3-cyano-5-(ethoxycarbonyl)-6-(4-methoxyphenyl)-2-(methylthio)pyridin-4-yl)-3-nitrophenyl)piperazine-1-carboxylate | 1.7 mmol, 1 g | C(#N)C=1C(=NC(=C(C1C1=C(C=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)[N+](=O)[O-])C(=O)OCC)C1=CC=C(C=C1)OC)SC | C32H35N5O7S
solvent | acetic acid | 8.82 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 8.6 mmol, 0.48 g | [Fe] | Fe
product | tert-butyl 4-(1-cyano-4-(4-methoxyphenyl)-2-(methylthio)-5-oxo-5,6-dihydrobenzo[c][2,7]naphthyridin-8-yl)piperazine-1-carboxylate | 0.63 g, 66% | C(#N)C1=C2C3=C(NC(C2=C(N=C1SC)C1=CC=C(C=C1)OC)=O)C=C(C=C3)N3CCN(CC3)C(=O)OC(C)(C)C | C30H31N5O4S
